US06797725B2
A reaction mixture containing 3-[1-(3,5-dimethyl-1h-pyrrol-2-yl)-meth-(z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indole-2-one (166 mg, 0.5 mmol), 2-pyrrolidin-1-yl-ethanol (115 mg, 1.0 mmol), and TFA (0.13 mL, 1.5 mmol) in 2 mL of THF, and 2 mL of dichloromethane gave 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-pyrrolidin-1-yl-ethyl ester (28 mg, 15%) as a yellow solid. 1HNMR (400 MHz, DMSO-d6) δ 12.56 (s, br, 1H, N-1′), 7.80-7.86 (m, 2H), 7.64 (s, 1H, H-vinyl), 7.16-7.20 (m, 2H), 6.10 (s, 1H, H-4′), 4.46 (t, J=5.47 Hz, 2H, CH2), 2.83 (m, br, 2H, CH2), 2.56 (m, br, 4H, CH2×2), 2.36 (s, 3H, CH3), 2.33 (s, 3H, CH3), and 1.69 (m, br, 4H, CH2×2)

reactant | 3-[1-(3,5-dimethyl-1h-pyrrol-2-yl)-meth-(z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indole-2-one | 0.5 mmol, 166 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
reactant | 2-pyrrolidin-1-yl-ethanol | 1.0 mmol, 115 mg | N1(CCCC1)CCO | C6H13NO
reactant | TFA | 1.5 mmol, 0.13 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-pyrrolidin-1-yl-ethyl ester | 28 mg, 15% | N1(CCCC1)CCOC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C22H25N3O3
